US04162258
To a THF solution of lithium diisopropylamide prepared from 26 mM of diisopropylamine and 26 mM of n-butyllithium, 6.16 g (28 mM) of trimethylsulfoxonium iodide were added under ice cooling, and the mixture was stirred at 0° C. for 30 minutes and then at room temperature for 2 hours. This reaction mixture was poured dropwise into a solution of 2.48 g (20 mM) of CP in 20 ml of THF during 4 hours. After the reaction was carried out at room temperature for 3 hours, the treatments were carried out as described in Example 8. 2.48 g (89% yield) of crude product were produced, from which 1.76 g (63% yield) of sabina ketone were obtained by distillation.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 26 mM | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 26 mM | C(CCC)[Li]
reactant | trimethylsulfoxonium iodide | 28 mM, 6.16 g | [I-].C[S+](=O)(C)C
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | sabina ketone | 1.76 g, 63% yield | CC(C)C12CCC(=O)C1C2 | C9H14O
